US08067408B2
3-{[{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}(methyl)amino]methyl}-N-{[6-fluoro-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}benzamide
To a solution of 1,1-dimethylethyl 4-{[5′-({[(3-{[{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}(methyl)amino]methyl}phenyl) carbonyl]amino}methyl)-2′-fluoro-3-biphenylyl]methyl}-1-piperazinecarboxylate (0.055 g, 0.066 mmol) in DCM (0.25 mL) was added TFA (0.25 mL) and stirred at room temperature for 30 min before was diluted with DCM, basified with NaHCO3 (sat. aq.). Organic layer was separated, dried over Na2SO4, filtered, concentrated, purified using a Gilson HPLC (with TFA), final product was basified with an amine cartridge to afford 0.015 g (31%) of the title compound. LC-MS m/z 733 (M+H)+; 1H-NMR (400 MHz, CD3OD) δ ppm 1.24 (t, J=7.40 Hz, 3 H) 1.48 (t, J=7.15 Hz, 3 H) 1.70-1.85 (m, J=10.79 Hz, 2 H) 2.01-2.11 (m, J=12.55, 1.76 Hz, 2 H) 2.56 (s, 3 H) 2.83-2.97 (m, J=7.28 Hz, 2 H) 3.46-3.58 (m, J=5.77 Hz, 8 H) 3.59-3.68 (m, 2 H) 3.92-4.00 (m, J=12.05 Hz, 2 H) 4.01-4.26 (m, J=29.11 Hz, 4 H) 4.26-4.35 (m, 1 H) 4.41-4.50 (m, 4 H) 4.61 (s, 2 H) 7.19 (dd, J=10.67, 8.41 Hz, 1 H) 7.39-7.45 (m, 1 H) 7.50-7.60 (m, 4 H) 7.61-7.70 (m, 2 H) 7.74 (s, 1 H) 7.86 (d, J=8.03 Hz, 1 H) 7.95 (s, 1 H) 8.25 (s, 1 H).

reactant | 1,1-dimethylethyl 4-{[5′-({[(3-{[{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}(methyl)amino]methyl}phenyl) carbonyl]amino}methyl)-2′-fluoro-3-biphenylyl]methyl}-1-piperazinecarboxylate | 0.066 mmol, 0.055 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CN(C)CC=2C=C(C=CC2)C(=O)NCC=2C=CC(=C(C2)C2=CC(=CC=C2)CN2CCN(CC2)C(=O)OC(C)(C)C)F)CC | C48H61FN8O4
reactant | TFA | 0.25 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 0.25 mL | C(Cl)Cl | CH2Cl2
product | 3-{[{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}(methyl)amino]methyl}-N-{[6-fluoro-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}benzamide | 0.015 g, 31% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CN(C)CC=2C=C(C(=O)NCC=1C=C(C(=CC1)F)C1=CC(=CC=C1)CN1CCNCC1)C=CC2)CC | C43H53FN8O2
